### ISSUE TITLE
How does one prove function equivalence under beta reduction?

### ISSUE THREAD

**Issue by htzh** [leanprover/tutorial#98]
I am trying to do a little group theory but I am pretty stumped by beta equivalence:
```
variable {A : Type}
variable [s : group A]
include s
definition lcoset H (a : A) : set A := λ x, H (a⁻¹ * x)
definition rcoset H (a : A) : set A := λ x, H (x * a⁻¹)
definition mul_closed_on H := ∀ x y, (x ∈ H ∧ y ∈ H) → x * y ∈ H
definition subgroup.has_inv H := ∀ a, a ∈ H → a⁻¹ ∈ H
definition subgroup H := H 1 ∧ mul_closed_on H ∧ subgroup.has_inv H
set_option formatter.hide_full_terms false
lemma rcoset_inv H (a : A) : rcoset (rcoset H a) a⁻¹ = H :=
      begin
        apply setext,
        intro x,
        apply iff.intro,
        rewrite inv_inv,
      end
```
Lean kept the goal in the form of
```
⊢ x ∈ rcoset (rcoset H a) a⁻¹ → x ∈ H
```
If I understand it correctly, beta equivalence is supposed to be opaque, so I can't reach inside the lambda terms. So is rewrite the only way to prove this? What if Lean can't match the rewrite pattern?

**Comment by htzh** [comment]
I figured it out using calc:
```
lemma rcoset_inv H (a : A) : rcoset (rcoset H a) a⁻¹ = H :=
      funext (assume x,
        calc rcoset (rcoset H a) a⁻¹ x = (rcoset H a) (x * (a⁻¹)⁻¹) : rfl
        ... = H (x * (a⁻¹)⁻¹ * a⁻¹) : rfl
        ... = H x : inv_mul_cancel_right
```
but I am still pretty confused about this and the tactic style. It is nice in tactic style I get some feedback on what the goal is.

**Comment by fpvandoorn** [comment]
I'm not sure what you mean with "beta equivalence is supposed to be opaque". You can indeed not rewrite inside lambda terms. However, you can unfold set membership `mem`, and after that you can use rewrite. You can unfold a definition in the goal by the tactic `esimp [mem]` or `rewrite ↑mem` (you can input `↑` using `\u`). Also: rewrite doesn't unfold definitions by itself: so you have to unfold `rcoset` in the goal as well.

However, I do get a strange error if I try rewrite after that. I think it is a bug. Leo, can you investigate this? I think the following should work, but I get the error `invalid 'rewrite' tactic, step produced type incorrect term`

```lean
import algebra.group data.set

open algebra set

variable {A : Type}
variable [s : group A]
include s
definition lcoset H (a : A) : set A := λ x, H (a⁻¹ * x)
definition rcoset H (a : A) : set A := λ x, H (x * a⁻¹)
definition mul_closed_on H := ∀ x y, (x ∈ H ∧ y ∈ H) → x * y ∈ H
definition subgroup.has_inv H := ∀ a, a ∈ H → a⁻¹ ∈ H
definition subgroup H := H 1 ∧ mul_closed_on H ∧ subgroup.has_inv H

lemma rcoset_inv H (a : A) : rcoset (rcoset H a) a⁻¹ = H :=
begin
  apply setext, intro x, apply iff.intro,
  { rewrite [↑rcoset,↑mem,inv_mul_cancel_right x a⁻¹], intro el, exact el},
  { rewrite [↑rcoset,↑mem,inv_mul_cancel_right x a⁻¹], intro el, exact el}
end
```

**Comment by fpvandoorn** [comment]
Note: the following workaround does work:
```lean
import algebra.group data.set

open algebra set eq

variable {A : Type}
variable [s : group A]
include s
definition lcoset H (a : A) : set A := λ x, H (a⁻¹ * x)
definition rcoset H (a : A) : set A := λ x, H (x * a⁻¹)
definition mul_closed_on H := ∀ x y, (x ∈ H ∧ y ∈ H) → x * y ∈ H
definition subgroup.has_inv H := ∀ a, a ∈ H → a⁻¹ ∈ H
definition subgroup H := H 1 ∧ mul_closed_on H ∧ subgroup.has_inv H

lemma rcoset_inv H (a : A) : rcoset (rcoset H a) a⁻¹ = H :=
begin
  apply setext, intro x, apply iff.intro,
  { rewrite [↑rcoset,↑mem], intro el,
    apply cast, apply (congr_arg H), apply (inv_mul_cancel_right x a⁻¹),
    exact el},
  { rewrite [↑rcoset,↑mem], intro el,
    apply cast, apply (congr_arg H), apply symm, apply (inv_mul_cancel_right x a⁻¹),
    exact el}
end
```

**Comment by fpvandoorn** [comment]
Also: your `calc` proof does work if you replace `inv_mul_cancel_right` by `{inv_mul_cancel_right x a⁻¹}`.

**Comment by htzh** [comment]
> Also: your calc proof does work if you replace inv_mul_cancel_right by {inv_mul_cancel_right x a⁻¹}.

Thanks. I was very confused by the type error and couldn't figure out what is to be done. Could you explain the difference?

> I'm not sure what you mean with "beta equivalence is supposed to be opaque".

I was thinking that a lambda term could be kept in any of the various beta equivalent forms and there is no way to force it to be in a form so that some specific pattern matching can be achieved.

**Comment by htzh** [comment]
This works too. So the intermediate beta equivalent terms were superfluous?
```
lemma rcoset_inv H (a : A) : rcoset (rcoset H a) a⁻¹ = H :=
      funext (assume x,
        calc rcoset (rcoset H a) a⁻¹ x = H x : {inv_mul_cancel_right x a⁻¹})
```

**Comment by fpvandoorn** [comment]
> Thanks. I was very confused by the type error and couldn't figure out what is to be done. Could you explain the difference?

If you write 
```
calc a = b : foo
```
Then the calc environment will try the following rewrite steps in order, until it finds one which succeeds (and also inserting arguments if necessary):
`foo`, `foo⁻¹`, `{foo}`, `{foo⁻¹}`
(here `⁻¹` means symmetry and `{ ... }` means apply the equality to a subterm)
The problem is that the first step does not fail right away: if `Prop` were a group itself, then maybe the *whole* expression ```H (x * (a⁻¹)⁻¹ * a⁻¹) = H x``` could be unified with `c * d⁻¹ * d = c`, for some `c, d`, depending on what the multiplication on `Prop` would be. This is of course ridiculous, but Lean doesn't know that. If you write `{inv_mul_cancel_right x a⁻¹}` explicitly, you'll help Lean by explicitly giving the arguments and saying that the equality should be applied to a subterm.

> I was thinking that a lambda term could be kept in any of the various beta equivalent forms and there is no way to force it to be in a form so that some specific pattern matching can be achieved.

`esimp` reduces lambda-redexes, and with `esimp [foo]` you can unfold definitions if they are needed to reduce. Usually that is enough. If you want to force your goal to a specific form, you can use `change e`. This will check whether `e` is definitionally equal to the current goal, and then replaces the goal by `e`.

> This works too. So the intermediate beta equivalent terms were superfluous?

In this case they were. But this is not always true: sometimes writing the term in the right form using reflexivity will help the elaborator to apply the next step.

**Comment by htzh** [comment]
Thanks, @fpvandoorn! Your comments greatly clarified things for me. I will close the issue now but your comments definitely belong in the tutorial somewhere.

**Comment by htzh** [comment]
> However, I do get a strange error if I try rewrite after that. I think it is a bug. Leo, can you investigate this? I think the following should work, but I get the error invalid 'rewrite' tactic, step produced type incorrect term

Do you want to open an issue for this in ```Lean``` itself? I don't know if Leo saw the message.

**Comment by leodemoura** [comment]
> I think it is a bug. Leo, can you investigate this? I think the following should work, but I get the error invalid 'rewrite' tactic, step produced type incorrect term

@fpvandoorn Could you please post a self-contained example (that produces the error) in the lean repository?

Thanks

BTW, this is a new error message, it has been introduced to cope with issue https://github.com/leanprover/lean/issues/550
We can try to produce a better error message, or investigate whether this is a spurious one (i.e., the rewrite step should be accepted).
